US07083884B2
10-Ethylphenothiazine-3-carbaldehyde.
Phosphorus oxychloride (POCl3,3.7 ml, 0.04 mol) was added dropwise to 4.4 ml (0.06 mol) of dry dimethylformamide (DMF) at 0° C. under a nitrogen atmosphere. This solution was warmed up slowly to room temperature. Then, a solution of 5 g (0.02 mol) of 10-ethylphenothiazine in dry DMF was added dropwise. The reaction mixture was refluxed at 80° C. for 24 hours and poured into the ice water. This solution was neutralized with potassium hydroxide until the pH reached 6–8. The product was extracted with chloroform. The chloroform extract was dried with anhydrous sodium sulfate, filtered and distilled. The product was crystallized from methanol. The yield of 10-ethylphenothiazine-3-carbaldehyde (C15H13NOS, FW=255.34) was 65%.

reactant | Phosphorus oxychloride | 0.04 mol, 3.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 10-ethylphenothiazine | 0.02 mol, 5 g | C(C)N1C2=CC=CC=C2SC=2C=CC=CC12 | C14H13NS
reactant | potassium hydroxide | [OH-].[K+]
reactant | DMF | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 0.06 mol, 4.4 ml | CN(C=O)C | C3H7NO
product | 10-Ethylphenothiazine-3-carbaldehyde | C(C)N1C2=CC=CC=C2SC=2C=C(C=CC12)C=O | C15H13NOS
